US09238640B2
Preparation of 5,7-Dimethoxy-2-(2-(2-(pyrrolidin-1-yl)ethyl)-1H-indol-5-yl)quinazolin-4(3H)-one
To a solution of 2-[2-(2-bromo-ethyl)-1H-indol-5-yl]-5,7-dimethoxy-3H-quinazolin-4-one (6.10 g, 14.2 mmol) in anhydrous DMF (45 mL) was added pyrrolidine (6.07 g, 85.4 mmol) and the reaction mixture was stirred at 45° C. for 15 hours. DMF was removed under reduced pressure, the residue was taken in water (150 mL), and stirred for 30 minutes. Separated solid was filtered, washed with water, and dried under vacuum. Crude compound was purified by column chromatography (silica gel 230-400 mesh, eluting with 5% 7.0 M ammonia in methanol solution in dichloromethane) to give the title compound as a white solid. Yield: 3.4 g (57%). MP 215-217° C. 1H NMR (400 MHz, DMSO-d6): δ 11.79 (s, 1H), 11.21 (s, 1H), 8.31 (s, 1H), 7.88 (dd, J=8.8 and 1.6 Hz, 1H), 7.35 (d, J=8.8 Hz, 1H), 6.71 (d, J=2.4 Hz, 1H), 6.46 (d, J=2.4 Hz, 1H), 6.28 (s, 1H), 3.87 (s, 3H), 3.83 (s, 3H), 2.89 (t, J=8.0 Hz, 2H), 2.74 (t, J=8.0 Hz, 2H), 2.48 (m, 4H), 1.67 (m, 4H).

reactant | 2-[2-(2-bromo-ethyl)-1H-indol-5-yl]-5,7-dimethoxy-3H-quinazolin-4-one | 14.2 mmol, 6.10 g | BrCCC=1NC2=CC=C(C=C2C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C20H18BrN3O3
reactant | pyrrolidine | 85.4 mmol, 6.07 g | N1CCCC1 | C4H9N
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 5,7-Dimethoxy-2-(2-(2-(pyrrolidin-1-yl)ethyl)-1H-indol-5-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C=1C=C2C=C(NC2=CC1)CCN1CCCC1)=O | C24H26N4O3
